US06307047B1
2-(4-Fluorophenyl)-4-bromomethyl-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone
To a heterogeneous, refluxing solution of 2-(4-fluorophenyl)-4-methyl-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone (590 mg, 1.65 mmol) and carbon tetrachloride (24 mL) was quickly added N-bromosuccinimide (yield: 308 mg, 1.73 mmol) followed by benzoyl peroxide (12 mg, 0.05 mmol). After 1 hour the reaction had only run to near 50% completion. Additional benzoyl peroxide (12 mg, 0.05 mmol) was added, and the reaction checked after another 1 hour. The reaction was still not complete, and so more benzoyl peroxide (4 mg, 0.017 mmol) was added. After 30 minutes, the reaction was completed. The mixture was cooled to 23° C. and diluted with ethyl acetate. The acetate solution was washed with saturated NaHCO3, water, and brine. The solution was dried over MgSO4, filtered, and concentrated in vacuo. The residue was chromatographed (flash silica gel, ethyl acetate/hexanes gradient 1:1 to 4:1) to provide the product (yield: 530 mg, 74%). 1H NMR (300 MHz, CDCl3) δ 3.16 (s, 3H), 4.34 (s, 2H), 7.20 (dd, J=8.8, 8.8 Hz, 2H), 7.67-7.74 (m, 2H), 7.82 (d, J=8.7 Hz, 2H), 7.86 (s, 1H), 8.17 (d, J=8.7 Hz, 2H), MS (APCI+) m/z 437 (M+H)+.

reactant | 2-(4-fluorophenyl)-4-methyl-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone | 1.65 mmol, 590 mg | FC1=CC=C(C=C1)N1N=CC(=C(C1=O)C)C1=CC=C(C=C1)S(=O)(=O)C | C18H15FN2O3S
reactant | carbon tetrachloride | 24 mL | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | N-bromosuccinimide | 1.73 mmol, yield: 308 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | benzoyl peroxide | 0.05 mmol, 12 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
catalyst | benzoyl peroxide | 0.05 mmol, 12 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
catalyst | benzoyl peroxide | 0.017 mmol, 4 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 2-(4-Fluorophenyl)-4-bromomethyl-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone | yield: 530 mg, 74% | FC1=CC=C(C=C1)N1N=CC(=C(C1=O)CBr)C1=CC=C(C=C1)S(=O)(=O)C | C18H14BrFN2O3S
